US05612377
Phenyl isocyanate (3.2 g, 27 mmol) was added via pipette to a solution of N-benyloxy-N-(2-methylpropyl)amine (4.8 g, 27 mmol) in methylene chloride (30 mL). The reaction mixture was allowed to stir at ambient temperature for 3 days. The solvent was removed under vacuum. The residue was purified by column chromatography (silica gel; 1:9 ethyl acetate:hexanes) to provide 6.2 g of 1-benzyloxy-1-(2-methylpropyl)-3-phenylurea as a white crystalline solid, m.p. 85°-87° C. Analysis: Calculated for C18H22N2 : %C, 72.46; %H, 7.43; %N, 9.39; Found: %C, 72.53; %H, 7.51; %N, 9.44.

reactant | Phenyl isocyanate | 27 mmol, 3.2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-benyloxy-N-(2-methylpropyl)amine | 27 mmol, 4.8 g | C(C1=CC=CC=C1)ONCC(C)C | C11H17NO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyloxy-1-(2-methylpropyl)-3-phenylurea | 6.2 g | C(C1=CC=CC=C1)ON(C(=O)NC1=CC=CC=C1)CC(C)C | C18H22N2O2
